US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-[4-(4-chlorophenylcarbonyl)-aminophenyl]-pyrazine, CJS 497
Using Method LL with 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine (50 mg, 0.14 mmol) and 4-chlorophenylcarbonyl chloride (22 μL, 0.17 mmol), and purification by column chromatography (AcOEt), the title compound was obtained (23 mg). Yield: 34%. 1H NMR (250 MHz, DMSO-d6) δ 3.65 (s, 3H, [CH3O]4), 3.85 (s, 6H, [CH3O]3+5), 7.28 (s, 2H, Harom2′+6′), 7.64 (d, 2H, Harom 3+5, J=8.5 Hz), 7.93 (d, 2H, Harom 3″+5″, J=8.6 Hz), 7.93 (m, 2H, Harom 2″+6″), 8.03 (m, 2H, Harom 2+6), 8.14 (s, 1H, HPz 5), 8.53 (s, 1H, HPz 3), 9.56 (s, 1H, NH), 10.50 (s, 1H, NHamide). m/z 491.1 [(M+H)+ calcd for C26H23ClN4O4 490.1].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine | 0.14 mmol, 50 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC=C(C=C1)N | C19H20N4O4
reactant | 4-chlorophenylcarbonyl chloride | 0.17 mmol, 22 μL | ClC1=CC=C(C=C1)C(=O)Cl | C7H4Cl2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-[4-(4-chlorophenylcarbonyl)-aminophenyl]-pyrazine | Yield: 34% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)C1=C(C=C(C=C1)C(=O)C1=CC=C(C=C1)Cl)N | C26H23ClN4O4
